US07906136B2
d-α-tocopherol;
d,l-α-tocopherol; d-β-tocopherol; d,l-β-tocopherol; d-η-tocopherol; and d,l-η-tocopherol (including acetate, hemisuccinate, nicotinate, and succinate-PEG ester forms of each of the foregoing); tocotrienol isomers, and their esters;

reactant | d-β-tocopherol | CC1=CC(=C(C2=C1O[C@](CC2)(C)CCC[C@H](C)CCC[C@H](C)CCCC(C)C)C)O | C28H48O2
reactant | acetate | C(C)(=O)[O-]
reactant | nicotinate | C(C1=CN=CC=C1)(=O)[O-]
reactant | succinate | C(CCC(=O)[O-])(=O)[O-]
reactant | tocotrienol | CC(=CCC/C(=C/CC/C(=C/CCC1(CCC2=C(O1)C=CC(=C2)O)C)/C)/C)C | C26H38O2
product | d-α-tocopherol | CC1=C(C(=C2CC[C@@](OC2=C1C)(C)CCC[C@H](C)CCC[C@H](C)CCCC(C)C)C)O | C29H50O2
